US06872731B2
A mixture of acetic anhydride (16.8 g, 0.164 mol), triethylamine (33.1 g, 0.327 mol) and acetonitrile (107.4 g, 2.61 mol) was heated to 45° C. before adding 2,4-pyridinedicarboxylic acid N-oxide (22.0 g, 0.12 mol) as a single portion. Once the evolution of carbon dioxide had subsided the resulting dark mixture was left to stir for 1 hour at 45° C. The solvent was evaporated, the residue dissolved in 10% potassium hydroxide solution (200 ml) and then heated at reflux for 16 h. The mixture was cooled to 0° C., neutralised with concentrated hydrochloric acid and the aqueous slurry evaporated to dryness. The residue was suspended in methanol (200 ml), hydrogen chloride gas was bubbled through this suspension for 5 minutes and the mixture was then heated at reflux for 16 h. The reaction was cooled, the solids removed by filtration and the filtrate concentrated to give a black oil. The residue was mixed with water (600 ml) and carefully made basic with solid sodium hydrogencarbonate. The aqueous was extracted with ethyl acetate (2×500 ml), the organics combined, washed with brine, dried over sodium sulphate containing 3 g decolourising charcoal, filtered and evaporated to give 2-aminopyridin-4-ylcarboxylic acid methyl ester (13.0 g) as a tan powder contaminated with ca. 20% 2-hydroxypyridin-4-ylcarboxylic acid methyl ester. Used without further purification. A small sample was purified by silica gel chromatography eluting with dichloromethane/methanol/conc. ammonia (95:4.5:0.5) giving the aminopyridine as a pale yellow solid. 1H NMR (400 MHz, d6-DMSO) δH 2.50 (3H, s), 8.49 (1H, dd, J 3 and 7), 8.65 (1H, d, J 3), 8.80 (1H, d, J 7).

reactant | acetic anhydride | 0.164 mol, 16.8 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.327 mol, 33.1 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 2.61 mol, 107.4 g | C(C)#N | C2H3N
reactant | 2,4-pyridinedicarboxylic acid N-oxide | 0.12 mol, 22.0 g | [N+]=1(C(=CC(=CC1)C(=O)O)C(=O)O)[O-] | C7H5NO5
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 600 ml | O | H2O
product | 2-aminopyridin-4-ylcarboxylic acid methyl ester | 13.0 g | COC(=O)C1=CC(=NC=C1)N | C7H8N2O2
